US06706709B2
3-(4-Methoxy-1H-indol-2-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide
A mixture of 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide (194 mg, 0.86 mmol), 4-methoxy-1H-indole-2-carbaldehyde (150 mg, 0.86 mmol) and piperidine (36 mg, 0.43 mmol) in ethanol (0.2M) was stirred at room temperature for a total of 5 days. The reaction was concentrated to ¼ of its volume and the precipitate was collected by vacuum filtration to give the title compound as a pale orangish-red solid.

reactant | 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | 0.86 mmol, 194 mg | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
reactant | 4-methoxy-1H-indole-2-carbaldehyde | 0.86 mmol, 150 mg | COC1=C2C=C(NC2=CC=C1)C=O | C10H9NO2
reactant | piperidine | 0.43 mmol, 36 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 0.2M | C(C)O | C2H6O
product | 3-(4-Methoxy-1H-indol-2-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | CNS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC=1NC2=CC=CC(=C2C1)OC | C19H17N3O4S
